US07262216B2
Ethyl 5-[2-(tert-butoxycarbonylmethylamino)acetylamino]benzofuran-2-carboxylate
50 ml of DMF are added to 0.95 g of Boc-sarcosine and 1.21 g of ethyl 5-aminobenzofuran-2-carboxylate. 1.77 g of TBTU and 0.23 g of HOBt are then added, and the mixture is neutralised using 4 ml of triethylamine. The mixture is stirred overnight at room temperature.

reactant | Boc-sarcosine | 0.95 g | C(=O)(OC(C)(C)C)N(C)CC(=O)O | C8H15NO4
reactant | ethyl 5-aminobenzofuran-2-carboxylate | 1.21 g | NC=1C=CC2=C(C=C(O2)C(=O)OCC)C1 | C11H11NO3
reactant | TBTU | 1.77 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | HOBt | 0.23 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | triethylamine | 4 ml | C(C)N(CC)CC | C6H15N
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
product | Ethyl 5-[2-(tert-butoxycarbonylmethylamino)acetylamino]benzofuran-2-carboxylate | C(C)(C)(C)OC(=O)CNCC(=O)NC=1C=CC2=C(C=C(O2)C(=O)OCC)C1 | C19H24N2O6
